US07166617B2
a) 3-(2-Benzylphenyloxy)propanol
By using 2-hydroxydiphenylmethane and 3-bromopropanol, the title compound was obtained as colorless oil by similar procedures to those of Example 60b (yield: 28%).

reactant | 2-hydroxydiphenylmethane | C1=CC=C(C=C1)CC2=CC=CC=C2O | C13H12O
reactant | 3-bromopropanol | BrCCCO | C3H7BrO
product | 3-(2-Benzylphenyloxy)propanol | C(C1=CC=CC=C1)C1=C(C=CC=C1)OCCCO | C16H18O2
